US05665718
12 g (35 mmol) of (S)-8-bromo-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile were stirred at boiling temperature for 2 hours with 9.6 g (94 mmol) of sodium bicarbonate and 7.3 g (105 mmol) of hydroxylamine hydrochloride in 170 ml of ethanol and 40 ml of water. After evaporating the alcohol the suspension obtained was cooled and the crystallizate was filtered off under suction and dried. There were obtained 11.4 g (86%) of (S)-8-bromo-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime of m.p. 235°-237°.

reactant | (S)-8-bromo-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile | 35 mmol, 12 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#N)CCC1)=O | C15H11BrN4O
reactant | sodium bicarbonate | 94 mmol, 9.6 g | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 105 mmol, 7.3 g | Cl.NO
solvent | ethanol | 170 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | (S)-8-bromo-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime | 11.4 g, 86% | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CCC1)=O | C15H14BrN5O2
